US07635715B2
Step D: Preparation of N-((6′-Chloro-4′-hydroxy-2′-oxo-spiro[cyclohexane-1,1′-naphthalen]-3′-yl)carbonyl)glycine
1,1-Dimethylethyl N-((6′-chloro-4′-hydroxy-2′-oxo-spiro[cyclohexane-1,1′-naphthalen]-3′-yl)carbonyl)glycinate (185 mg, 441 μmol) was dissolved in TFA (2 mL) at ambient temperature for 30 minutes. The reaction mixture was then concentrated, and the product was precipitated with hexanes, filtered, washed with ether, and dried in a vacuum oven to give the title compound (119 mg) as a white solid. MS (m/z)=364 (M+H)+. Calculated for C18H18ClNO5 363.09.

reactant | 1,1-Dimethylethyl N-((6′-chloro-4′-hydroxy-2′-oxo-spiro[cyclohexane-1,1′-naphthalen]-3′-yl)carbonyl)glycinate | 441 μmol, 185 mg | ClC=1C=C2C(=C(C(C3(C2=CC1)CCCCC3)=O)C(=O)NCC(=O)OC(C)(C)C)O | C22H26ClNO5
solvent | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-((6′-Chloro-4′-hydroxy-2′-oxo-spiro[cyclohexane-1,1′-naphthalen]-3′-yl)carbonyl)glycine | 119 mg | ClC=1C=C2C(=C(C(C3(C2=CC1)CCCCC3)=O)C(=O)NCC(=O)O)O | C18H18ClNO5
